US07968573B2
A mixture of 0.27 g of 8-chloro-2-[1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazol-5-yl]-4H-3,1-benzoxazine-4-one, 0.025 ml of hydrazine monohydrate and 10 ml of tetrahydrofuran was stirred at room temperature for 3 hours. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate three times. The organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was washed with a mixed solvent of chloroform and methyl t-butyl ether to obtain 0.21 g of N-[2-chloro-6-(hydrazinocarbonyl)phenyl]-1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazole-5-carboxamide of the formula:

reactant | 8-chloro-2-[1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazol-5-yl]-4H-3,1-benzoxazine-4-one | 0.27 g | ClC1=CC=CC=2C(OC(=NC21)C2=CC(=NN2C2=NC=CC=C2Cl)C(F)(F)F)=O | C17H7Cl2F3N4O2
reactant | hydrazine monohydrate | 0.025 ml | O.NN
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | N-[2-chloro-6-(hydrazinocarbonyl)phenyl]-1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazole-5-carboxamide | 0.21 g | ClC1=C(C(=CC=C1)C(=O)NN)NC(=O)C1=CC(=NN1C1=NC=CC=C1Cl)C(F)(F)F | C17H11Cl2F3N6O2
